US08058299B2
To 1-(2-chloro-phenyl)-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid described above (320 mg, 1.10 mmol) in methylene chloride (10 mL) was added bromotrispyrrolidinophosphonium hexafluorophosphate (770 mg, 1.65 mmol). The reaction was stirred for 10 minutes and then 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (320 mg, 1.10 mmol) followed by diisopropylethylamine (0.60 mL, 3.30 mmol) were added. The reaction was stirred at room temperature overnight. The crude mixture was diluted in methanol (100 mL), loaded onto silica gel and purified using Isco chromatography (eluting with ethyl acetate and hexanes) to give 4-(4-{[1-(2-chloro-phenyl)-3-trifluoromethyl-1H-pyrazole-carbonyl]-amino}-phenyl)-piperidine-1-carboxylic acid tert-butyl ester. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 1-(2-chloro-phenyl)-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid | ClC1=C(C=CC=C1)N1N=C(C(=C1)C(=O)O)C(F)(F)F | C11H6ClF3N2O2
reactant | bromotrispyrrolidinophosphonium hexafluorophosphate | 1.65 mmol, 770 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.10 mmol, 320 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | diisopropylethylamine | 3.30 mmol, 0.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanol | 100 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-{[1-(2-chloro-phenyl)-3-trifluoromethyl-1H-pyrazole-carbonyl]-amino}-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C1(NN(C=C1)C1=C(C=CC=C1)Cl)C(F)(F)F | C27H30ClF3N4O3
